US07057042B2
tert-butyl 4-(2-pyridinyl)-1,4-diazepane-1-carboxylate
tert-Butyl 1,4-diazepane-1-carboxylate (5.0 g, 25.0 mmol) (Aldrich) and 2-bromopyridine (1.98 g, 12.50 mmol) (Aldrich) were combined in a sealed tube and heated at 150° C. for 12 hours. The mixture was purified by flash chromatography (5% MeOH/CH2Cl2) to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ 1.48 (m, 9H), 1.88–2.02 (m, 2H), 3.20–3.48 (m, 2H), 3.52–3.70 (m, 4H), 3.72–3.83 (m, 2H), 6.45–6.59 (m, 2H), 7.47 (m, 2H), 8.11–8.18 (m, 1H); MS (DCI/NH3) m/z 278 (M+H)+.

reactant | tert-Butyl 1,4-diazepane-1-carboxylate | 25.0 mmol, 5.0 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 2-bromopyridine | 12.50 mmol, 1.98 g | BrC1=NC=CC=C1 | C5H4BrN
product | tert-butyl 4-(2-pyridinyl)-1,4-diazepane-1-carboxylate | N1=C(C=CC=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H23N3O2
